### PR TITLE
Adapt to https://github.com/rocq-prover/rocq/pull/17876

### PR DESCRIPTION
**Pull request by proux01**
Adapt to https://github.com/rocq-prover/rocq/pull/17876

### CODE REVIEW

File: theories/_CoqProject [hunk 1]
```diff
@@ -1 +1,3 @@
 -Q . Stdlib
+# introduced in Rocq 9.2
+-arg -w -arg +level-tolerance
```
Comment (SkySkimmer) [inline theories/_CoqProject:3]: Why is this warning special?

File: theories/ZArith/BinInt.v [hunk 2]
```diff
@@ -1580,11 +1580,11 @@ Lemma inj_1 : Z.to_pos 1 = 1%positive.
 Proof. reflexivity. Qed.
 
 Lemma inj_double x : 0 < x ->
- Z.to_pos (Z.double x) = (Z.to_pos x)~0%positive.
+ Z.to_pos (Z.double x) = ((Z.to_pos x)~0)%positive.
 Proof. now destruct x. Qed.
 
 Lemma inj_succ_double x : 0 < x ->
- Z.to_pos (Z.succ_double x) = (Z.to_pos x)~1%positive.
+ Z.to_pos (Z.succ_double x) = ((Z.to_pos x)~1)%positive.
```
Comment (SkySkimmer) [inline theories/ZArith/BinInt.v:1587]: is it possible to change the notation so that the parens aren't needed instead of adding parens?

File: theories/_CoqProject (hunk 1 above)
Comment (andres-erbsen) [reply theories/_CoqProject:3]: My preference is to use the same flags for all build methods, primarily to avoid spending dev time on troubleshooting inconsistencies. I do sometimes disable warnings-as-errors during development, but I think it is good to have by default. I don't see the case for having it for just one warning in one build method but for all warnings in another. Previous discussion:

- https://github.com/rocq-prover/rocq/pull/16950
